US07989629B2
4-{(1E)-3-Oxo-3-[(phenylmethyl)oxy]-1-propen-1-yl}-1-naphthalenecarboxylic acid
A mixture of 4-bromo-1-naphthalenecarboxylic acid (100 g), benzylacrylate (96.8 g), triphenylphosphine (10.2 g) palladium(II) acetate (2 g), triethylamine (258 ml) and DMF (600 ml) are heated at 90-100° C. for 4-12 h (typically 10-12 h). Two further portions of palladium(II) acetate (20 g) are added at four hour intervals during the stir period. The mixture is treated with charcoal (3×15 g) at 50-80° C. (typically 70-80° C.) filtering after each charge at 40-45° C. The DMF is then distilled off at 80-90° C. under vacuum and the residue is cooled to 25-35° C. Dichloromethane (100 ml) and water (100 ml) are added to the residue and the mixture is acidified with concentrated hydrochloric acid and is stirred at 20-35° C. for about 30 min. The mixture is filtered, and the solid product dried. The residue is dissolved in a mixture of DMF (600 ml) then water (400 ml) at 90-100° C. and stirred for 1-1.5 h. The solution is filtered at 80-85° C., cooled to 20-35° C., and stirred for about 2 h. The product is filtered off and dried (dry weight 43 g).

reactant | 4-bromo-1-naphthalenecarboxylic acid | 100 g | BrC1=CC=C(C2=CC=CC=C12)C(=O)O | C11H7BrO2
reactant | benzylacrylate | 96.8 g | C(C1=CC=CC=C1)OC(C=C)=O | C10H10O2
reactant | triphenylphosphine | 10.2 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | charcoal | 15 g | C | CH4
catalyst | palladium(II) acetate | 20 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | DMF | 600 ml | CN(C)C=O | C3H7NO
solvent | triethylamine | 258 ml | C(C)N(CC)CC | C6H15N
product | 4-{(1E)-3-Oxo-3-[(phenylmethyl)oxy]-1-propen-1-yl}-1-naphthalenecarboxylic acid | O=C(/C=C/C1=CC=C(C2=CC=CC=C12)C(=O)O)OCC1=CC=CC=C1 | C21H16O4
